US06699992B2
0.20 mol of 2,4-dichloro-5-fluoro-3-methoxybromobenzene, 0.22 mol of powder of magnesium, 0.24 mol of cuprous chloride in 240 ml of tetrahydrofuran were stirred at ambient temperature to initiate the reaction, and then quickly cooled to −30±10° C. The reaction was monitored by TLC to be finished. A solution of acetyl chloride (0.30 mol) in 50 ml of toluene was added dropwise to the resulting mixture. The reaction was carried out at −30±110° C. for 8 hours. The temperature of the reaction was then increased to room temperature and stirred for 3 hours. The reactant was poured into a mixture of 170 g of crushed ice containing 75 ml of 25% aqueous solution of sulfuric acid. The resulting mixture was stirred for 5 minutes. The organic phase was separated off. The aqueous layer was extracted by toluene. The combined organic phases were washed successively with aqueous solution of sodium chloride, aqueous solution of sodium bicarbonate and water, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was recrystallized from ethanol to afford 38.7 g of 2,4-dichloro-5-fluoro-3-methoxyacetylbenzene (0.163 mol) in 81.6% yield, mp. 36.7-39.4° C.

reactant | 2,4-dichloro-5-fluoro-3-methoxybromobenzene | 0.20 mol | ClC1=C(C=C(C(=C1OC)Cl)F)Br | C7H4BrCl2FO
reactant | magnesium | [Mg] | Mg
reactant | acetyl chloride | 0.30 mol | C(C)(=O)Cl | C2H3ClO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | tetrahydrofuran | 240 ml | O1CCCC1 | C4H8O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2,4-dichloro-5-fluoro-3-methoxyacetylbenzene | 0.163 mol, 38.7 g, 81.6% yield | ClC1=CC=C(C(=C1C(COC)=O)Cl)F | C9H7Cl2FO2
